US08445501B2
4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester
Starting from 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester and 5-cyclobutylmethoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[1,3]dioxole (example A30) the title compound is obtained as colorless solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2Cl | C9H8ClN3O2
reactant | 5-cyclobutylmethoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[1,3]dioxole | C1(CCC1)COC1=C(C2=C(OCO2)C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO5
product | 4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1 | C21H21N3O5
